M3 (VOUT1 net14 VDD VDD) pmos4
M2 (net14 net8 VDD VDD) pmos4
M1 (net8 net14 VDD VDD) pmos4
M0 (VOUT2 net8 VDD VDD) pmos4
M7 (VOUT1 net14 VSS VSS) nmos4
M6 (net14 net8 VSS VSS) nmos4
M5 (net8 net14 VSS VSS) nmos4
M4 (VOUT2 net8 VSS VSS) nmos4
L0 (net14 net8) inductor
C3 (net8 net16) capacitor
C2 (net16 VB1) capacitor
C1 (net15 VB1) capacitor
C0 (net14 net15) capacitor
R1 (net16 VSS) resistor
R0 (net15 VSS) resistor